US04304770
A mixture of ethyl 2-ethoxyimino-3-oxo-4-chlorobutyrate (syn isomer) (38.7 g), thiourea (13.2 g), sodium acetate (14.3 g), methanol (95 ml) and water (95 ml) was stirred at 48° C. for 40 minutes. After the resultant solution was adjusted to pH 6.5 with an aqueous solution of sodium bicarbonate, the appeared precipitates were collected by filtration and washed with diisopropyl ether to give ethyl 2-ethoxyimino-2-(2-aminothiazol-4-yl)acetate (syn isomer) (14.7 g), mp 130° to 131° C.

reactant | ethyl 2-ethoxyimino-3-oxo-4-chlorobutyrate | 38.7 g | C(C)ON=C(C(=O)OCC)C(CCl)=O | C8H12ClNO4
reactant | thiourea | 13.2 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 14.3 g | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 95 ml | O | H2O
solvent | methanol | 95 ml | CO | CH4O
product | ethyl 2-ethoxyimino-2-(2-aminothiazol-4-yl)acetate | 14.7 g | C(C)ON=C(C(=O)OCC)C=1N=C(SC1)N | C9H13N3O3S
